US07714161B2
A 1 M solution of BBr3 (9 ml, 9 mmol) in CH2Cl2 was added to a well-stirred solution of 5-benzyloxy-3,4′-difluorostilbene (0.97 g, 3 mmol) in dry CH2Cl2 (120 ml) at −78° C. The mixture was warmed to −20° C. and stirred for 10 minutes. Then MeOH was added at −78° C. The mixture was washed with saturated NaHCO3, and water. Flash chromatography gave the 3,4′-difluoro-5-hydroxystilbene (0.60 g, 86%) as white solid. Data are: 1H NMR (CDCl3, 300 MHz) δ 7.46 (m, 2H), 7.08-6.73 (m, 6H), 6.48 (dt, 1H), 4.85 (s, 1H); 13C NMR (CDCl3, 75 MHz) δ 165.05 (d), 161.78 (d), 157.06 (d), 140.43 (d), 133.06 (d), 129.40 (s), 128.45 (d), 127.25 (t), 115.95 (d), 109.42 (d), 105.91 (d), 102.60 (d); 19F NMR (CDCl3, 282 MHz) δ-31703.17 (t), −32099.92 (t); HRMS (EI+) found 232.0714 M+, calcd 232.0700 for C14H10F2O.

reactant | BBr3 | 9 mmol, 9 ml | B(Br)(Br)Br | BBr3
reactant | 5-benzyloxy-3,4′-difluorostilbene | 3 mmol, 0.97 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C=CC1=CC=C(C=C1)F)F | C21H16F2O
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 3,4′-difluoro-5-hydroxystilbene | 0.60 g, 86% | FC=1C=C(C=C(C1)O)C=CC1=CC=C(C=C1)F | C14H10F2O
